US05656629
Sodium metal (310 mg) was dissolved in ethanol (75 ml) and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.1 g, 5 mmol) and methyl 2-pyridinylacetate (1.52 g, 10 mmol) were added. The reaction mixture was heated at reflux for 28 hours, the solvent was removed in vacuo and the residue was dissolved in water (50 ml) and acidified with acetic acid. The mixture was extracted with CHCl3 (100 ml), the solvent was removed and the oily residue was crystallized from cyclohexane to afford 0.85 g of crude product. The product was purified by column chromatography on silica gel eluting with ether, followed by recrystallization from cyclohexane, to afford 1-cyclopentyl-3-ethyl-6-(2-pyridinylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, as yellow crystals, m.p. 120°-122° C.

reactant | Sodium | 310 mg | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 5 mmol, 1.1 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | methyl 2-pyridinylacetate | 10 mmol, 1.52 g | N1=C(C=CC=C1)CC(=O)OC | C8H9NO2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-(2-pyridinylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=NC=CC=C2)CC | C18H21N5O
